US05929085
(b) 1-Propyl-1,2,3,4-tetrahydroisoquinolin-7-amine hydrochloride
To a suspension of 7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride (2.51 g, 9.78 mmol) in ethanol (150 ml) was added 10% Pd--C (0.3 g) and the reaction mixture was hydrogenated at 50 psi for 3 h. The solution was filtered and the filtrate was concentrated and absolute ethanol was added to help evaporate any excess water. The resulting solid was triturated with isopropanol (30 ml) to give the title compound (1.42 g, 64%) as an off-white solid, m.p. 192-4° C.

reactant | 7-nitro-1-propyl-1,2,3,4-tetrahydroisoquinoline hydrochloride | 9.78 mmol, 2.51 g | Cl.[N+](=O)([O-])C1=CC=C2CCNC(C2=C1)CCC
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-Propyl-1,2,3,4-tetrahydroisoquinolin-7-amine hydrochloride | 1.42 g, 64% | Cl.C(CC)C1NCCC2=CC=C(C=C12)N | InChI=1S/C12H18N2.ClH/c1-2-3-12-11-8-10(13)5-4-9(11)6-7-14-12;/h4-5,8,12,14H,2-3,6-7,13H2,1H3;1H
